Name:  ___            Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
___ / metformin
 
Attending: ___.
 
Chief Complaint:
Shortness of breath
REASON FOR TRANSFER: need for bipap
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with PMHx of CAD, sCHF (EF 40-45%), hypertension, 
hyperlipidemia, and diabetes, recent hospitalizations for NSTEMI 
on ___ (99% ___ RCA ISRS s/p DES) as well as ___ 
(90% mid ___ s/p DES). She was feeling well at home, her 
cardiologist had decreased her torsemide from 40 daily to 20 
daily on ___ because her creatinine had not fully resolved 
from her admission. She  reports full compliance with her meds, 
but did have feta cheese on her salad yesterday and "skinny pop" 
popcorn which was salty. That day she noticed a dry cough, then 
this morning she awoke short of breath feeling she couldn't 
breathe, but without chest pain or diaphoresis, saying she "knew 
it was the fluid" and "not the arteries" because she could hear 
the wheezing and crackles. She also noted her weight had 
increased only 2 pounds over the last couple weeks. She called 
EMS and was brought to the ___ ED. 

On arrival to the ED she was already on BIPAP. Exam showed 
bibasilar crackles, CXR showed "bilateral infiltrates"-- 
compared to prior new L base opacity. Labs showed normal WBC 
6.4k but with 6.4% eos (new), Lactate 3.7, Cr 1.4, BNP >12k, UA 
neg.  Blood and urine cultures were sent. She was given 325 ASA 
and 40mg IV lasix with 500 cc immediate output. Upon arrival to 
the CVICU she is conversant and alert and bipap was immediately 
removed and she was satting well on 4L O2.  

 
Past Medical History:
- Type 2 diabetes  
- Hypertension
1.  CAD (p/w pulmonary edema/CHF).  
-NSTEMI ___ with PCI to LAD and ostial and ___ RCA.   
-NSTEMI ___ s/p mid RCA DES(Resolute; 80% 
stenosis/thrombosis) 
-NSTEMI ___ with 99% ___ RCA ISRS s/p DES 
(2.5x22mm Resolute).
-NSTEMI ___ with 90% mid ___ s/p DES (2.5x38mm ___.
2.  Systolic dysfunction due to IMI, EF 35% (TTE ___.
3.  Hyperlipidemia. 10.14: TC127,TG84,HDL56,LDL54 (atorva 80 
mg).
4.  Obesity. BMI 33
5.  Diabetes A1c 7.9 in ___ (insulin requiring).
- Psoriatic Arthritis  
- Asthma  
- Paget disease of the nipple in ___, s/p resection of 
nipple-areolar complex and radiation treatments  
- Cholecystectomy  
- Mild transaminitis and u/s consistent with NASH in ___
 
Social History:
___
Family History:
from last dc summary, confirmed with patient
Father suffered his first myocardial infarction at the age of 
___. He died from a myocardial infarction at the age of ___. Her 
mother had a pacemaker inserted at the age of ___ and died at the 
age of ___.

 
Physical Exam:
ADMISSION EXAM
==============
VS: T=98.7 BP=116/57 HR=108 RR=25 O2 sat= 98% 4L  
Gen: Appears well, speaking in full sentences
HEENT:  Atraumatic, EOMI, PERRL, MMM, OP clear
NECK: unable to visulize JVP, no ___, normal thyroid
CV: RRR, distant heart sounds
LUNGS: clear, fair airmovement with some bibasilar rales R>L
ABD: soft, obese, +BS, nontender
EXT: no edema, cool feet
PULSES:  2+ DP on right, 1+ on left
SKIN: no rashes
NEURO: CN II-XII intact, moving all extremities A&OX3
GU: has foley with yellow urine

DISCHARGE EXAM
==============
VS: 98.5 121/42-133/60 ___ 95%RA
Weight: 85 kg
Gen: Appears well, speaking in full sentences
HEENT:  Atraumatic, EOMI, PERRL, MMM, OP clear
NECK: unable to visulize JVP, no ___, normal thyroid
CV: RRR, distant heart sounds
LUNGS: clear, no rales
ABD: soft, obese, +BS, nontender
EXT: no edema, warm feet
PULSES:  2+ DP on right, 1+ on left
SKIN: no rashes
NEURO: CN II-XII intact, moving all extremities A&OX3
 
Pertinent Results:
ADMISSION LABS
==============
___ 05:15AM BLOOD WBC-6.4 RBC-3.79* Hgb-11.4* Hct-36.4 
MCV-96 MCH-30.0 MCHC-31.3 RDW-14.6 Plt ___
___ 05:15AM BLOOD Neuts-56.9 ___ Monos-5.8 Eos-6.4* 
Baso-1.2
___ 09:20AM BLOOD ___ PTT-26.8 ___
___ 05:15AM BLOOD Glucose-332* UreaN-32* Creat-1.4* Na-133 
K-8.0* Cl-101 HCO3-23 AnGap-17
___ 05:15AM BLOOD ___
___ 05:15AM BLOOD cTropnT-0.02*
___ 05:15AM BLOOD Calcium-8.9 Phos-5.5* Mg-2.3
___ 05:22AM BLOOD Lactate-3.7* K-4.5

INTERIM LABS
============
___ 03:00PM BLOOD cTropnT-0.08*
___ 06:00AM BLOOD cTropnT-0.08*
___ 03:09PM BLOOD Lactate-1.4

IMAGING
========
CXR ___
Mild pulmonary edema. No substantial pleural effusion. 

MICROBIOLOGY
============
___ 5:45 am URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    NO GROWTH. 

DISCHARGE LABS
===============
___ 06:00AM BLOOD WBC-6.0 RBC-3.38* Hgb-9.9* Hct-30.5* 
MCV-90 MCH-29.4 MCHC-32.6 RDW-15.0 Plt ___
___ 06:00AM BLOOD Glucose-158* UreaN-31* Creat-1.2* Na-138 
K-3.7 Cl-102 HCO3-27 AnGap-___RIEF SUMMARY
=============
___ with PMHx of CAD, sCHF (EF 40-45%), hypertension, 
hyperlipidemia, and diabetes, recent hospitalizations for NSTEMI 
presenting with shortness of breath concerning for pulmonary 
edema due to decompensated systolic CHF.

ACTIVE ISSUES
==============
# Decompensated acute on chronic systolic heart failure: LVEF 
35% on most recent Echo. Patient has had prior episodes of SOB 
likely related to flash pulmonary edema. Her admission symptoms 
were similar to prior presentation where she was found to have 
pulmonary edema, confirmed on CXR. Trops were cycled and 
plateaued at 0.08. BNP elevated at ___. The patient initially 
required BiPAP but was quickly weaned to 4L O2 NC. She received 
40 mg IV Lasix x 2 with improvement in respiratory status and 
was weaned off O2. On day of discharge, her creatinine was 
stable and she was discharged to restart torsemide 40 mg daily. 
She was instructed to take 20 mg torsemide and SL nitro x 3 if 
she becomes acutely short of breath. She was continued on home 
metoprolol and quinapril. 

CHRONIC ISSUES
===============
# Coronary disease - S/p recent stents over last 2 months. 
Continued home ASA and Plavix.

# Hypertension - Stable. Continued home quinapril and metoprolol 


# Diabetes - Stable, Continued on home insulin doses. 

TRANSITIONAL ISSUES
===================
# Weight on discharge: 85 kg
# Outpatient follow-up with cardiology scheduled for ___. 
Chem 6 should be checked then

# CODE: full
# CONTACT:  Friends are her ___ per patient ___ 
___ and ___ ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Atorvastatin 80 mg PO DAILY 
3. Clopidogrel 75 mg PO DAILY 
4. Levothyroxine Sodium 125 mcg PO DAILY 
5. Torsemide 20 mg PO DAILY 
6. Vitamin D 1000 UNIT PO DAILY 
7. Quinapril 5 mg PO DAILY 
8. NovoLOG (insulin aspart) ___ units subcutaneous TID W/MEALS 
9. Levemir (insulin detemir) ___ units subcutaneous QHS 
10. Metoprolol Succinate XL 25 mg PO DAILY 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Atorvastatin 80 mg PO DAILY 
3. Clopidogrel 75 mg PO DAILY 
4. Levothyroxine Sodium 125 mcg PO DAILY 
5. Metoprolol Succinate XL 25 mg PO DAILY 
6. Quinapril 5 mg PO DAILY 
7. Vitamin D 1000 UNIT PO DAILY 
8. Levemir (insulin detemir) ___ units subcutaneous QHS 
9. NovoLOG (insulin aspart) ___ units subcutaneous TID W/MEALS 
10. Torsemide 40 mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Congestive Heart Failure
Chronic Kidney Disease

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms ___,

It was a pleasure taking care of you at ___ 
___.

You came to the hospital with shortness of breath. This was 
likely from fluid backing up into your lungs. This improved 
after giving you IV water pills (furosemide). Thankfully, blood 
tests showed you were not having an active heart attack. You 
will go home on a higher dose of torsemide and will follow-up 
with your Cardiologists.

Weigh yourself every morning, call MD if weight goes up more 
than 3 lbs.

*EMERGENCY PLAN FOR SHORTNESS OF BREATH*
1) Take a subligual nitroglycerin, and repeat in 5 minutes - up 
to 3 tablets total.
2) Take an extra 20mg torsemide.
3) If you are still short of breath, call ___.
 
Followup Instructions:
___